US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (7.66 mL, 3.07 mmol), 2-chloro-4-phenoxypyrimidine (0.697 g, 3.37 mmol), potassium phosphate (0.716 g, 3.37 mmol), Pd2(dba)3 (0.0702 g, 0.0766 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0488 g, 0.0843 mmol) were reacted in toluene (8 mL) and water (3 mL) to afford 4-methyl-N-(4-phenoxypyrimidin-2-yl)thiazol-2-amine (0.09 g, 9.40% yield) as a light yellow solid. 1H NMR (CDCl3) δ 8.36 (d, 1H), 7.45 (m, 2H), 7.30 (m, 1H), 7.18 (m, 1H), 7.16 (m, 1H), 6.42 (d, 1H), 6.27 (bs, 1H), 2.30 (d, 3H); Mass spectrum (esi) m/z=385 (100) (M+H1).

reactant | 4-methylthiazol-2-amine | 3.07 mmol, 7.66 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-phenoxypyrimidine | 3.37 mmol, 0.697 g | ClC1=NC=CC(=N1)OC1=CC=CC=C1 | C10H7ClN2O
reactant | potassium phosphate | 3.37 mmol, 0.716 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.0843 mmol, 0.0488 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0766 mmol, 0.0702 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 3 mL | O | H2O
product | 4-methyl-N-(4-phenoxypyrimidin-2-yl)thiazol-2-amine | 0.09 g, 9.40% yield | CC=1N=C(SC1)NC1=NC=CC(=N1)OC1=CC=CC=C1 | C14H12N4OS
